US09382222B2
To a mixture of 4-fluoro-N-(4-fluoro-phenyl)-benzenesulfonamide (1.0 g, 3.7 mmol) and K2CO3 (1.03 g, 7.4 mmol) in dimethylformamide (5 mL) was added 1-bromo-2-methylpropane (1.21 mL, 11.2 mmol). The mixture was heated at 100° C. in a microwave reactor for 3 hours. Water was added and then extracted with EtOAc, washed with brine, dried with Na2SO4 then concentrated. The crude product was re-dissolved in cyclohexane then concentrated to give 4-fluoro-N-(4-fluoro-phenyl)-N-isobutyl-benzenesulfonamide (1.05 g, 86%). 1H NMR (300 MHz, CDCl3): δ 7.56-7.57 (m, 2H), 7.12-7.13 (m, 2H), 7.00 (d, 4H), 3.28 (d, 2H), 1.54 (m, 1H), 0.91 (d, 6H).

reactant | 4-fluoro-N-(4-fluoro-phenyl)-benzenesulfonamide | 3.7 mmol, 1.0 g | FC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)F | C12H9F2NO2S
reactant | K2CO3 | 7.4 mmol, 1.03 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-methylpropane | 11.2 mmol, 1.21 mL | BrCC(C)C | C4H9Br
reactant | Water | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-fluoro-N-(4-fluoro-phenyl)-N-isobutyl-benzenesulfonamide | 1.05 g, 86% | FC1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)C1=CC=C(C=C1)F | C16H17F2NO2S
